US05574044
A mixture of 0.13 g of 1,3-dihydro-1-(4-oxocyclohexyl)-2H-benzimidazol-2-one, 0.12 g of 4-(3-pyridinecarbonylamino)piperidine, 5 mL of 1,2-dichloroethane, 0.04 mL of glacial acetic acid and 0.161 g of sodium triacetoxyborohydride was stirred at room temperature for 48 h. The reaction mixture was poured into 50 mL chloroform and 50 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×25 mL of chloroform and the combined organic layers dried over MgSO4 and concentrated under reduced pressure. Chromatography of the crude product on silica gel, eluting with 10% methanol in choroform gave 0.015 g of 1,3-dihydro-1-{trans-4-[4-(5-pyridinecarbonylamino)piperidin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one: 1H NMR (400 MHz, CDCl3) 9.01 (d, J=2 Hz, 1H), 8.75 (dd, J=2 and 4.5 Hz, 1H), 8.40 (br s, 1H), 8.16 (dd, J=2 and 8 Hz, 1H), 7.43 (m, 2H), 7.08 (m, 3H), 6.16 (br m, 1H), 4.47 (m, 1H), 4.12 (m, 2H), 3.1 (br s, 2H), 2.8 (m, 1H), 2.5 (m, 1H), 2.2 (br m, 4H), 1.60 (br m, 8H). The dihydrochloride salt was precipitated from ether: Analysis calculated for C24H29N5O2.2HCl.0.75 CHCl3.1.0 H2O C: 49.54, H: 5.67, N: 11.67 found C: 49.55, H: 5.85, N: 11.88.

reactant | 1,3-dihydro-1-(4-oxocyclohexyl)-2H-benzimidazol-2-one | 0.13 g | O=C1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C13H14N2O2
reactant | 4-(3-pyridinecarbonylamino)piperidine | 0.12 g | N1=CC(=CC=C1)C(=O)NC1CCNCC1 | C11H15N3O
reactant | sodium triacetoxyborohydride | 0.161 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.04 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 1,3-dihydro-1-{trans-4-[4-(5-pyridinecarbonylamino)piperidin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.015 g | N1=CC=CC(=C1)C(=O)NC1CCN(CC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C24H29N5O2
